US05457212
5,6-Dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopiperidin-1-yl)-7H-thieno[3,2-b]pyran (1)
Sodium hydride (60% in oil, 0.25 g, 6.3 mmol) was added to a solution of 6-bromo-7-hydroxy-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]pyran (1.5 g, 5.7 mmol) in N,N-dimethylformamide (25 mL) at 0° C. The resultant mixture was stirred at rt for 2 h. d-Valero-lactam (1.7 g, 17.1 mmol) was added to the solution followed by sodium hydride (60% in oil, 0.75 g, 18.8 mmol) and stirring was continued at rt for 4 days. The solution was poured into ice water (500 mL) and extracted with dichloromethane. The dichloromethane solution was washed with water (5×) and dried over sodium sulfate. The solvent was evaporated in vacuo and the resultant solid was triturated in diethyl ether to give the product, 0.68 g (43%): mp 151°-152° C.; IR (KBr): 3195, 1610 and 1563 cm-1 ; MS: m/z 282 (MH+); 1H NMR (CDCl3): 1.29 (s, 3H), 1.49 (s, 3H), 1.81 (m, 4H), 2.53 (t, J=6.5 Hz, 2H), 3.15 (m, 1H), 3.24 (m, 1H), 3.68 (d, J=5.0 Hz, 1H, exchanges with D2O), 3.79 (dd, J=5.0 Hz, J=9.1 Hz, 1H, simplifies to d, J=9.1 Hz with D2O), 5.84 (d, J=9.1 Hz, 1H), 6.57 (d, J=5.4 Hz, 1H) and 7.11 (d, J=5.4 Hz, 1H).

reactant | Sodium hydride | 6.3 mmol, 0.25 g | [H-].[Na+]
reactant | 6-bromo-7-hydroxy-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]pyran | 5.7 mmol, 1.5 g | BrC1C(C2=C(OC1(C)C)C=CS2)O | C9H11BrO2S
reactant | d-Valero-lactam | 17.1 mmol, 1.7 g | C1CCNC(=O)C1 | C5H9NO
reactant | sodium hydride | 18.8 mmol, 0.75 g | [H-].[Na+]
reactant | KBr | [K+].[Br-]
reactant | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 5,6-Dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopiperidin-1-yl)-7H-thieno[3,2-b]pyran | OC1C(C2=C(OC1(C)C)C=CS2)N2C(CCCC2)=O | C14H19NO3S
